US07297705B2
Step 3. Preparation of N,N-Dimethyl-(1H-pyrrolo[3,2-c]-pyridin-3-yl)methylamine
A solution of 5-azaindole (1.19 g, 10.0 mmol), dimethylamine hydrochloride (0.98 g, 12.0 mmol) and paraformaldehyde (0.36 g, 12.0 mmol-equivalents) in 1-butanol is heated at reflux temperature for 5 h and concentrated in vacuo. The concentrate is diluted with saturated aqueous NaHCO3 and extracted with 4:1 CH2Cl2:ethanol. The combined extracts are dried over MgSO4, concentrated in vacuo and filtered. The filtercake is air-dried to afford the title compound as a yellow solid, 0.680 g (39% yield), identified by NMR analysis.

reactant | 5-azaindole | 10.0 mmol, 1.19 g | N1C=CC2=CN=CC=C12 | C7H6N2
reactant | dimethylamine hydrochloride | 12.0 mmol, 0.98 g | Cl.CNC
reactant | paraformaldehyde | 12.0 mmol, 0.36 g | C=O | CH2O
solvent | 1-butanol | C(CCC)O | C4H10O
product | N,N-Dimethyl-(1H-pyrrolo[3,2-c]-pyridin-3-yl)methylamine | 39% yield | CN(C)CC1=CNC2=C1C=NC=C2 | C10H13N3
